US05925676
To a solution mixture of 4.7 g of (1RS,4RS)-3-allyl-4-methyl-4-hydroxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether, 6.8 g of N,N-diisopropylethylamine and 50 ml of chloroform was added 2.66 ml of chloromethyl methyl ether under ice-cooling and the resulting mixture was allowed to react at room temperature for 8 hours. Then the reaction liquid was poured into ice-cooled 5% aqueous solution of citric acid and extracted two times with diethyl ether. The combined ether layer was washed successively with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography to obtain 4.5 g of (1RS,4RS)-3-allyl-4-methyl-4-methoxymethoxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether. Yield 82%

reactant | (1RS,4RS)-3-allyl-4-methyl-4-hydroxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 4.7 g | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)(O)C)CC=C | C15H28O2Si
reactant | N,N-diisopropylethylamine | 6.8 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 2.66 ml | COCCl | C2H5ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (1RS,4RS)-3-allyl-4-methyl-4-methoxymethoxy-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 4.5 g, Yield 82% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)(OCOC)C)CC=C | C17H32O3Si
